Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
"I'm minding my business."

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o man with a likely chronic
psychotic illness characterized by paranoia was brought to the
___ ED after reportedly walking in traffic and dousing himself
with water. On arrival to the ED he was initially combative and
given 5 mg Haldol and 2 mg Ativan. Psychiatry was consulted to
help guide management and evaluate for potential psychiatric
admission.

The patient was not cooperative with the exam tonight. He stated
that he was being chased by the ___ Department for
"minding my business." He would not elaborate. He stated that he
is a "man of the Lord" and "that is all I'm telling you." 

When asked if psychiatric hospitalizations were ever helpful in
the past, he stated: "I ain't got no business in those placed."
When asked where he does have business, he stated: "On the
streets."

He denied currently seeing a doctor and reports taking no
medications.

All other questions he refused to answer.

ED COURSE: Haldol 5mg and Ativan 2mg for acute agitation. 
Patient
consistently refused vitals.

 
Past Medical History:
Patient denies any medical history. As
noted in Dr. ___ ___ note, he has a history of
rhabdomyolysis and tardive dyskinesia. Similar to past
evaluations, the patient did not pull the covers from his face
long enough for me to evaluate.
 
Social History:
___
Family History:
denied
 
Physical Exam:
On admission ->

Exam: Patient refused physical exam.

MSE: 
Appearance: AA man, appears stated age, wearing hospital gown
Behavior: sitting with arms crossed, staring at the floor
throughout the conversation; no PMR/A
Speech: terse. normal rate and volume.
Mood: "patient"
Affect: irritable, restricted, decidedly not congruent with mood
TP: linear, goal-directed
TC: hyperreligious, poverty of content
Perception: denies AVH, no obvious internal preoccupation
I/J: poor/poor

 
Pertinent Results:
CBC: notable for mild anemia
Chem 7: notable for Cr 1.3
Serum Tox: Neg
Urine Tox: neg
UA: wnl
 
Brief Hospital Course:
Psychiatric: Mr. ___ was admitted to the inpatient psychiatric 
unit on ___. On initial interview, he was irritable and 
guarded, refusing a physical exam and certain parts of the 
interview and cognitive exam. He expressed paranoid ideation 
regarding the ___ Police and stated that he thought certain 
unnamed people would read his mind. He subsequently settled into 
the milieu without event. He was started on risperdal, and this 
was titrated up during his admission. On day 3, he accepted a 
Consta injection. Over the course of his admission, his mood 
improved and he became more cooperative interviews. He became 
more social, attending groups and frequently speaking with other 
patients in the common areas. His paranoid ideation diminshed. 
He agreed to follow up with a psychiatrist for another Consta 
injection in 2 weeks time. He was discharged on ___ with a 
presciption for PO risperdal and a plan to contact ___ for a PCP 
and ultimately ___ psychiatry referral. 

Safety: He was maintained on q 15 minute checks and did not have 
any behavioral issues while in house.

Legal: ___
Medications on Admission:
None
 
Discharge Medications:
1. risperidone 1 mg Tablet Sig: Three (3) Tablet PO BID (2 times 
a day).
Disp:*180 Tablet(s)* Refills:*2*
2. risperidone microspheres 25 mg/2 mL Syringe Sig: One (1) 
Syringe Intramuscular Q2W (TH).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
I. Schizophrenia. Chronic Paranoid. Acute Exacerbation ___ to
Treatment Non-Adherenece
II. Def
III. h/o rhabdomyolysis
IV. Severe
V. 48

 
Discharge Condition:
Patient refused vitals.

MSE: 
General: fair grooming, appears stated age
Speech: normal rate, volume, and prosody
Mood/Affect: 'fine'/euthymic, full range
T. Form: linear
T. Content: denies hallucinations. vague, mild delusions 
regarding the police - improved greatly from admission. denies 
SI/HI.
Cognition : a and o x 3
I/J: limited/fair

 
Discharge Instructions:
You have been started on a new medication called risperidone. 
Please take this as prescibed and follow up at your appointment 
listed below. 
 
Followup Instructions:
___